US06897224B2
a. 2-Methyl-3-nitrobenzoic acid methyl ester
20 g (110.4 mmol) of 2-methyl-3-nitrobenzoic acid is refluxed in 100 ml of methanol for 10 hours after 2 ml of concentrated sulfuric acid is added. The product that crystallizes out during cooling is suctioned off and dried. The filtrate is evaporated to the dry state, the solid residue is taken up in ethyl acetate, and the solution is washed twice with saturated sodium bicarbonate solution. After drying on Na2SO4, another product is obtained. Together, 16.4 (76.3%) of the desired compound is obtained.

reactant | 2-methyl-3-nitrobenzoic acid | 110.4 mmol, 20 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | 2-Methyl-3-nitrobenzoic acid methyl ester | COC(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C9H9NO4
